US09388189B2
(S)—N-(3-Hydroxy-5-(3-(4-((1-(5-methyl-4-oxo-3-phenyl-3,4-dihydropyrrolo[2,1-f][1,2,4]triazin-2-yl)ethyl)amino)-7H-pyrrolo[2,3-d]pyrimidin-5-yl)-1H-pyrazol-1-yl)phenyl)methanesulfonamide
(S)—N-(3-Methoxy-5-(3-(4-((1-(5-methyl-4-oxo-3-phenyl-3,4-dihydropyrrolo[2,1-f][1,2,4]triazin-2-yl)ethyl)amino)-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidin-5-yl)-1H-pyrazol-1-yl)phenyl)methanesulfonamide (15 mg, 0.01 mmol) was treated with boron tribromide (1M in dichloromethane, 1 ml, 1 mmol) in dichloromethane (1 ml) and then with a solution of ammonia (7N in methanol, 10 ml, 70 mmol) according to the method described in Example 41 to give 4.2 mg (44% yield) of the title compound. Purity 92%.

reactant | (S)—N-(3-Methoxy-5-(3-(4-((1-(5-methyl-4-oxo-3-phenyl-3,4-dihydropyrrolo[2,1-f][1,2,4]triazin-2-yl)ethyl)amino)-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidin-5-yl)-1H-pyrazol-1-yl)phenyl)methanesulfonamide | 0.01 mmol, 15 mg | COC=1C=C(C=C(C1)N1N=C(C=C1)C1=CN(C=2N=CN=C(C21)N[C@@H](C)C2=NN1C(C(N2C2=CC=CC=C2)=O)=C(C=C1)C)COCC[Si](C)(C)C)NS(=O)(=O)C | C38H44N10O5SSi
reactant | boron tribromide | 1 mmol, 1M, 1 ml | B(Br)(Br)Br | BBr3
reactant | ammonia | 70 mmol, 7N, 10 ml | N | H3N
solvent | dichloromethane | 1 ml | ClCCl | CH2Cl2
product | (S)—N-(3-Hydroxy-5-(3-(4-((1-(5-methyl-4-oxo-3-phenyl-3,4-dihydropyrrolo[2,1-f][1,2,4]triazin-2-yl)ethyl)amino)-7H-pyrrolo[2,3-d]pyrimidin-5-yl)-1H-pyrazol-1-yl)phenyl)methanesulfonamide | 4.2 mg, 44% yield | OC=1C=C(C=C(C1)N1N=C(C=C1)C1=CNC=2N=CN=C(C21)N[C@@H](C)C2=NN1C(C(N2C2=CC=CC=C2)=O)=C(C=C1)C)NS(=O)(=O)C | C31H28N10O4S
